US07091240B2
2, 3-dihydroxy-4-methoxybenzaldehyde 21
A dry CH2Cl2 (200 mL) solution of 2,3,4-trimethoxybenzaldehyde (19.6 g, 100 mmol), under nitrogen, was stirred for 10 min and BCl3 (1.0M solution in CH2Cl2, 200 mL) was added. The reaction was stirred for 24 hours and a 10% sodium bicarbonate solution (40 g/360 mL) was added. The resulting solution was acidified with concentrated HCl to PH 1. The organic layer was separated, and the aq. layer was extracted with EtOAc (4×100 mL). The organic layer was dried with MgSO4 and filtered through celite. After solvent evaporation, the crude mixture was recrystallized using (Hexanes/EtOAc:70/30) to afford 12.2 g (72.6 mmol, 73%) of a purple solid.

reactant | 2,3,4-trimethoxybenzaldehyde | 100 mmol, 19.6 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | BCl3 | 1.0M, 200 mL | B(Cl)(Cl)Cl | BCl3
reactant | sodium bicarbonate | 360 mL, 40 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2, 3-dihydroxy-4-methoxybenzaldehyde | 72.6 mmol, 12.2 g, 73% | OC1=C(C=O)C=CC(=C1O)OC | C8H8O4
